Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Demerol / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Lower extremity swelling
 
Major Surgical or Invasive Procedure:
Right Heart Catheterization ___

 
History of Present Illness:
This is a ___ F w PMHx HTN, DM, HLD, morbid obesity, ___ 
previously being treated w torsemide and metolazine, but stopped 
metalazone 1mo ago after bump in creatinine (1.9 to 2.4), 
presenting now with c/o orthopnea and SOB on exertion at rest.  
No CP.  
.
Patient reports over the summer she had diuresed off >20lbs of 
fluid on torsemide and metolazone.  At office visit 1mo ago w 
Dr. ___ was noted to have worsening renal isufficiency.  
Her metolazone was stopped at that time.  Patient reports that 
since that time, she has gained 11lbs and has developed 
increasing shortness of breath.  Patient was recently seen by 
her PCP, who noted these findings.  At that time, patients Cr 
had decreased to 2.1.  She was instructed to restart metolazone 
2.5mg three times per week.  
.
Patient felt that symptoms did not improve after 24hrs of 
medication, and was instructed to presented to the ED for 
inpatient management of dCHF.  
.
In the ED, patient's initial vital signs were 97.6 77 120/73 20 
99%2L (baseline).  Her EKG was wnl, and was given lasix 40mg IV. 
 Her labs were significant for a Cr 3.7, HCT 24.8(baseline), WCC 
9.5, clean UA.  CXR demonstrated small pleural effusions, mild 
pulm congestions.  
.
On transfer, VS were 98.0 70 133/61 16 100%2LNC.  
.
On review of systems, she denies any myalgias, joint pains, 
hemoptysis, black stools or red stools. She denies recent 
fevers, chills or rigors. She denies chest pain, paroxysmal 
nocturnal dyspnea, orthopnea, palpitations, syncope or 
presyncope.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: +Diabetes +Dyslipidemia, +Hypertension  

2. CARDIAC HISTORY:  
-Diastolic dysfunction
3. OTHER PAST MEDICAL HISTORY:  
-OSA on CPAP
-Obesity
-Diabetes c/b retinopathy and neuropathy
-Fibromyalgia
-Hypothyroidism
-Osteoarthritis
-CRI 
-Hypothyroidism,
-Chronic fatigue syndrome
-___ esophagus
-Iron deficiency Anemia
-Diverticulosis
-Fatty liver with some nodularity noted intraoperative in ___
-MVA c/b 1mo hospital stay for R ankle malleolar fracture, 
thoracic vertebral fracture requiring T4-8 fusion, gram-negative 
multilobar PNA, CNS bacteremia

 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION
VS: 97.7 159/74 86 22 97%2L (118.7kg)
GENERAL: NAD, AOxx3. Mood, affect appropriate.  
HEENT: PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa. No xanthalesma.  
NECK: Supple with JVD to ear.
CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: Resp were unlabored, no accessory muscle use. Bibasilar 
crackles, no wheezes, rales, rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: 2+ tight edema to knees bilaterally.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  

DISCHARGE
VS: 98.2 126/63 67 18 92%CPAP 116.8kg
I/O 32/1200 (8hr) ___ (24hr)  
GENERAL: NAD, AOx3, Comfortable  
HEENT: PERRL, EOMI, Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa.  
NECK: Supple with JVD to anlge of mandible.  
CARDIAC: RRR, nlS1/S2. No m/r/g. No thrills, lifts. No S3 or S4. 
 
LUNGS: Resp were unlabored, no accessory muscle use. Crackles 
___ up stable from prior exam, no wheezes, rales, rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: 2+ edema to mid-calf, improved from prior  
SKIN: No stasis dermatitis, ulcers, scars  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  

 
Pertinent Results:
Blood Counts: 
___ 01:06PM BLOOD WBC-10.1 RBC-2.71* Hgb-8.2* Hct-24.2* 
MCV-89 MCH-30.4 MCHC-34.1 RDW-13.3 Plt ___
___ 06:45AM BLOOD WBC-9.3 RBC-2.66* Hgb-7.6* Hct-23.5* 
MCV-88 MCH-28.8 MCHC-32.5 RDW-13.7 Plt ___
___ 06:30AM BLOOD WBC-6.4 RBC-2.60* Hgb-7.8* Hct-23.2* 
MCV-89 MCH-29.8 MCHC-33.5 RDW-14.0 Plt ___

Coags:
___ 10:30AM BLOOD ___ PTT-24.1 ___

Chemistry
___ 10:30AM BLOOD Glucose-110* UreaN-97* Creat-3.7* Na-134 
K-4.6 Cl-98 HCO3-20* AnGap-21*
___ 03:35PM BLOOD Glucose-192* UreaN-114* Creat-3.2* Na-138 
K-5.1 Cl-99 HCO3-26 AnGap-18
___ 06:30AM BLOOD Glucose-75 UreaN-108* Creat-2.6* Na-142 
K-4.2 Cl-101 HCO3-34* AnGap-11

Heart
___ 10:30AM BLOOD proBNP-1873*

Diabetes
___ 01:06PM BLOOD %HbA1c-7.9* eAG-180*

CCath ___
1. Resting hemodynamics revealed markedly elevated right and 
left heart 
filling pressures with RVEDP 30 mmHg and PCWP 32 mmHg. There was 
severe 
pulmonary arterial hypertension with PASP 68 mmHg. The cardiac 
index was 
preserved at 3.4 L/min/m2. The pulmonary vascular resistance was 
mildly 
elevated at 144 dyn-sec/cm5. 
FINAL DIAGNOSIS:     
1. Markedly elevated biventricular filling pressures. 
2. Severe pulmonary hypertension. 
3. Recommend increased diuresis. 

 
Brief Hospital Course:
HOSPITAL COURSE
___ female w ___ p/w increasing ___, SOB, rising creatinine in 
setting of diuresis, R heart cath demonstrating elevated wedge, 
RA, PA pressures, found to have likely interstitial nephritis as 
a result of lasix (sulfa- allergy) switched to ethacrynic acid 
with improvement in symptoms and kidney function.
.  
ACTIVE
# ARF: Pt a/w rising Cr to 3.4 in setting of outpatient and 
inpatient diuresis with lasix and metolazone.  Her ACE was held 
and she was originally treated with aggressive lasix and 
metolazone for suspected etiology of poor forward flow.  On 
consultation with renal service, white cell casts were noted in 
the urine with positive urine eos as well, suggesting possible 
AIN etiology ___ to sulfa allergy (lasix/metolazone).  Patient 
lasix, metolazone, omeprazole (all sulfa containing drugs) were 
discontinued and patient was started on ethacrynic acid with 
good effect. Her CaCO3 was increased to TID w meals.  Cr trended 
down to 2.5 and patient was discharged with close outpatient 
follow up with primary care doctor.  
.  
#Chronic Diastolic Heart Failure: Pt w known ___, who presented 
with wt gain, SOB, cath findings c/w worsening failure and 
pulmonary hypertension, c/b ARF.  Patient was started on revatio 
(sildenafil) for treatment of worsening pHTN.  As above patient 
was treated with ethacrynic acid with symptomatic improvement.
.
#Tremor: During this hospitalization, patient developed new 
onset intentional tremor w/o focal neurologic signs in setting 
of rising BUN to 115.  On review of the case, it was thought 
this was a result of worsening uremia, and that there were not 
other possible medication or medical etiologies.  The tremor 
began to resolve w trending down of BUN.  
.  
# Chronic Anemia: Patient's HCT remained stable at 23.2 and 
patient was asymptomatic.  Renal consult did not believe epo was 
necessary at this time.  Her home Fe was increased to BID from 
daily. 
.  
# CORONARIES:  Patient was continued on home ASA, metoprolol, 
lipitor.  As discussed above, lisinopril was held ___ ARF.  
.
# DM c/b neuropathy: Patient was continued on Lantus 50 units 
qHS, sliding scale insulin.  She was continued on home 
amitriptyline 75 mg qHS.  Her gabapentin was decreased to daily 
dosing given her worsening renal function. 
.
# GERD: As discussed above, patient's omeprazole was 
discontinued as a result of sulfa allergy and AIN concerns.  She 
was started on ranitidine.  
.
# HTN: Patient was continued on home amlodipine, clonidine, 
hydralazine, and metoprolol succinate.  
.
# Hypothyroid: Patient was continued on Synthroid 88 mcg daily
.
TRANSITIONAL
1. Code status: Patient remained full code
2. Pending labs: No labs were pending at time of discharge
3. Transition of Care: Patient was made follow-up appointments 
with her PCP and Dr. ___ with instructions to have her BUN/Cr 
checked within 1wk.  She was also arranged for outpatient renal 
follow-up.  PCP Dr ___ was updated via email on the events of 
this admission. 
 
Medications on Admission:
amitriptyline 75 mg qHS
amlodipine 10 mg daily
Lipitor 40 mg daily
clonidine 0.2 mg three times a day
gabapentin 200 mg twice a day
heparin subcutaneous every eight hours
hydralazine 25 mg TID day, 
Lantus insulin 50 units at bedtime
Synthroid 88 mcg daily
Lisinopril 20 mg BID
Metolazone 2.5 mg TID
torsemide 60 mg daily
omeprazole 20mg daily
metoprolol succinate 300 mg daily
oxycodone as needed for pain
aspirin 81mg daily
calcium daily
iron daily
multivitamin daily
 
Discharge Medications:
1. ethacrynic acid 25 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*120 Tablet(s)* Refills:*0*
2. amitriptyline 25 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
3. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. multivitamin,tx-minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
7. Toprol XL 100 mg Tablet Sustained Release 24 hr Sig: Three 
(3) Tablet Sustained Release 24 hr PO once a day.  
8. hydralazine 25 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
9. clonidine 0.2 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
10. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
11. gabapentin 300 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*30 Capsule(s)* Refills:*0*
12. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO TID W/MEALS (3 TIMES A DAY WITH MEALS).
Disp:*90 Tablet, Chewable(s)* Refills:*2*
13. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
14. Lantus 100 unit/mL Cartridge Sig: Fifty (50) units 
Subcutaneous at bedtime.  
15. heparin (porcine) 5,000 unit/mL Cartridge Sig: One (1) mL 
Injection every eight (8) hours.  
16. Insulin Sliding Scale
Insulin Sliding Scale
As directed by your primary care doctor
17. Outpatient Lab Work
At your Primary Care Appoinment on ___, please have the 
following labs checked:
Na, K, HCO3, Cl, BUN, Cr, Mg
18. Revatio 20 mg Tablet Sig: Two (2) Tablet PO three times a 
day.
Disp:*180 Tablet(s)* Refills:*0*
19. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY
Diastolic Heart Failure

SECONDARY
Interstitial Nephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted with shortness of breath and 
swelling of your legs.  This is likely due to a combination of 
heart failure (less effective pumping of blood by your heart) 
and a reaction of your kidneys to lasix.  You were treated with 
a different kind of diuretic called ethacrynic acid.  You 
improved and were ready for discharge.  

During this hospitalization, the following changes were made to 
your medications:
-STOPPED lasix
-STOPPED metolazone
-STOPPED omeprazole
-STARTED ethacrynic acid
-STARTED ranitidine
-INCREASED iron (to twice a day)
-INCREASED calcium (to three times a day with meals)
-DECREASED gabapentin/neurontin (to one time a day, because of 
your changing kidney function)
-STOPPED LISINOPRIL
-STARTED REVATIO
 
Followup Instructions:
___